US07968573B2
To a mixture of 0.20 g of 6-chloro-2-[1-(3-chloro-2-pyridinyl)-3-methylthio-1H-pyrazol-5-yl]-8-methyl-4H-3,1-benzoxazine-4-one, 5 ml of dichloromethane and 0.5 ml of water was added 0.18 g of magnesium bis(monoperoxophthalate) hexahydrate (MMPP), and the resulting mixture was stirred at room temperature for 22 hours. Water was added to the reaction mixture, and the mixture was extracted with methyl t-butyl ether. The organic layer was washed with water and an aqueous saturated sodium chloride solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to obtain 0.20 g of 6-chloro-2-[1-(3-chloro-2-pyridinyl)-3-methylsulfinyl-1H-pyrazol-5-yl]-8-methyl-4H-3,1-benzoxazine-4-one of the formula:

reactant | 6-chloro-2-[1-(3-chloro-2-pyridinyl)-3-methylthio-1H-pyrazol-5-yl]-8-methyl-4H-3,1-benzoxazine-4-one | 0.20 g | ClC=1C=C(C2=C(C(OC(=N2)C2=CC(=NN2C2=NC=CC=C2Cl)SC)=O)C1)C | C18H12Cl2N4O2S
reactant | dichloromethane | 5 ml | ClCCl | CH2Cl2
reactant | magnesium | 0.18 g | [Mg] | Mg
reactant | Water | O | H2O
reactant | water | 0.5 ml | O | H2O
product | 6-chloro-2-[1-(3-chloro-2-pyridinyl)-3-methylsulfinyl-1H-pyrazol-5-yl]-8-methyl-4H-3,1-benzoxazine-4-one | 0.20 g | ClC=1C=C(C2=C(C(OC(=N2)C2=CC(=NN2C2=NC=CC=C2Cl)S(=O)C)=O)C1)C | C18H12Cl2N4O3S
